US04496572
Thionyl chloride (2.0 ml) was added dropwise to a stirred solution of 6-bromo-2-hydroxymethyl-3-methylbenzo[b]thiophene (3.60 g) and pyridine (3 drops) in chloroform (80 ml). The solution was stirred at room temperature for 1 hour, then washed with water, sodium bicarbonate solution and dried (Na2SO4). Evaporation of the solvent gave a quantitative yield of 6-bromo-2-chloromethyl-3-methylbenzo[b]thiophene. A sample crystallised from petrol (b.p. 40°-60°) had m.p. 92°-93°.

reactant | Thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-bromo-2-hydroxymethyl-3-methylbenzo[b]thiophene | 3.60 g | BrC=1C=CC2=C(SC(=C2C)CO)C1 | C10H9BrOS
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-bromo-2-chloromethyl-3-methylbenzo[b]thiophene | quantitative yield | BrC=1C=CC2=C(SC(=C2C)CCl)C1 | C10H8BrClS
